US06184242B2
A mixture of 4-(1-benzenesulfonylpiperidin-4-ylmethyl)-phenylamine (0.28 g, 0.83 mmol) and 2-chloro-2-imidazoline sulfate (0.25 g, 1.25 mmol) in 2-propanol (20 mL) was heated under reflux for 30 minutes under nitrogen atmosphere. The reaction mixture was concentrated in vacuo. The residue was basified with 10% sodium hydroxide solution and extracted with dichloromethane. The organic layer was washed with cold water and brine, dried, and solvents removed in vacuo. The residue was chromatographed on neutral aluminum oxide, eluting with 1% methanol/dichloromethane, to give 2-[4-(1-benzenesulfonylpiperidin-4-ylmethyl)-phenyl]amino-imidazoline (0.29 g, 89%) as a foam. Analysis for C21H26N4O2S85H20: Calc.: C, 61.89; H, 6.68; N, 13.75; Found: C, 62.00; H, 6.52; N, 13.85.

reactant | 4-(1-benzenesulfonylpiperidin-4-ylmethyl)-phenylamine | 0.83 mmol, 0.28 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)CC1=CC=C(C=C1)N | C18H22N2O2S
reactant | 2-chloro-2-imidazoline sulfate | 1.25 mmol, 0.25 g | S(=O)(=O)(O)O.ClC=1NCCN1
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 2-[4-(1-benzenesulfonylpiperidin-4-ylmethyl)-phenyl]amino-imidazoline | 0.29 g, 89% | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)CC1=CC=C(C=C1)NC=1NCCN1 | C21H26N4O2S
